US04663347
2-(4-Chlorobenzoyl)-4-hydroxy-3-methyl-benzofuran
A mixture of 2,6-dihydroxyacetophenone (4.5 g, 30 mmoles), p-chloro-ω-bromoacetophenone (6.9 g, 30 mmoles), potassium carbonate (4.1 g, 30 mmoles) and acetone (100 ml) was refluxed for 7 hours. The mixture was filtered and concentrated. The residue was partitioned between methylene chloride (250 ml) and in sodium hydroxide solution (100 ml). The aqueous phase was separated and acidified with 20% citric acid solution. The precipitated product was filtered and chromatographed to obtain 1.5 g of the title compound, m.p. 238°-241° C.

reactant | 2,6-dihydroxyacetophenone | 30 mmoles, 4.5 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | p-chloro-ω-bromoacetophenone | 30 mmoles, 6.9 g | ClC1=CC=C(C=C1)C(CBr)=O | C8H6BrClO
reactant | potassium carbonate | 30 mmoles, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(4-Chlorobenzoyl)-4-hydroxy-3-methyl-benzofuran | 1.5 g | ClC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3)O)C=C1 | C16H11ClO3
